US09340547B2
A solution of bromine (37 mg, 0.24 mmol) in dichloromethane (100 μL) was added dropwise to a solution of triphenylphosphine (63 mg, 0.24 mmol) in dichloromethane (1 ml) under nitrogen. The solution was stirred for 30 min, and triethylamine (78 μL, 0.56 mmol) and tert-butyl [9-(2-{[3-chloro-2-({[(1R)-1-phenylethyl]amino}carbonyl)-1H-pyrrol-1-yl]amino}-2-oxoethyl)-9H-purin-6-yl]carbamate (100 mg, 0.19 mmol) were added. The reaction mixture was refluxed for 1.5 h, and quenched with 10% aqueous sodium bicarbonate solution. The organic phase was separated, dried (sodium sulphate) and concentrated to obtain an oil that was treated with 6 ml of a 7M methanolic solution of ammonia at 60° C. in a sealed vessel. The solvent was then evaporated to obtain 66 mg (34% yield, 48% purity) of tert-butyl [9-({5-chloro-4-oxo-3-[(1R)-1-phenylethyl]-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl}methyl)-9H-purin-6-yl]carbamate.

reactant | bromine | 0.24 mmol, 37 mg | BrBr | Br2
reactant | triphenylphosphine | 0.24 mmol, 63 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.56 mmol, 78 μL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl [9-(2-{[3-chloro-2-({[(1R)-1-phenylethyl]amino}carbonyl)-1H-pyrrol-1-yl]amino}-2-oxoethyl)-9H-purin-6-yl]carbamate | 0.19 mmol, 100 mg | ClC1=C(N(C=C1)NC(CN1C2=NC=NC(=C2N=C1)NC(OC(C)(C)C)=O)=O)C(=O)N[C@H](C)C1=CC=CC=C1 | C25H27ClN8O4
reactant | ammonia | N | H3N
solvent | dichloromethane | 100 μL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | tert-butyl [9-({5-chloro-4-oxo-3-[(1R)-1-phenylethyl]-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl}methyl)-9H-purin-6-yl]carbamate | 66 mg, 34% yield | ClC=1C=CN2N=C(N(C(C21)=O)[C@H](C)C2=CC=CC=C2)CN2C1=NC=NC(=C1N=C2)NC(OC(C)(C)C)=O | C25H25ClN8O3
